US07253196B2
1-(Bicyclo[2.2.1]heptan-1-yl)thiourea
A 100 mL RBF was purged with nitrogen gas before being charged with tert-butyl bicyclo[2.2.1]heptan-1-ylcarbamate (6.60 g, 31.0 mmol) and dichloromethane (66 mL). The solution was cooled in a 0° C. a bath, and then trifluoroacetic acid (12 mL, 18 g, 156 mL) was added. The cooling bath was removed, and the reaction mixture was allowed to warm to room temperature during which time a gas evolved from the reaction mixture. After 3 h at room temperature the reaction mixture was concentrated in vacuo to afford a viscous oil. This material was dissolved in dichloromethane (82 mL), and triethylamine (13.0 mL, 94 mmol) and benzoyl isothiocyanate (4.6 mL, 34 mmol) were added. After stirring at room temperature under an atmosphere of nitrogen for 14 h, the reaction mixture was concentrated in vacuo, and the resulting residue was dissolved in MeOH/THF/H2O (2:1:1, ca. 0.3 M). Potassium carbonate (22 g, 156 mmol) was added, and the biphasic solution was vigorously stirred for 3 h. The organic solvents were removed under reduced pressure during which time a yellow precipitate formed. The precipitate was filtered, washed with water (30 ml) and cold (−20° C.) diethyl ether to provide a white precipitate. This material was allowed to air dry for 10 min and then dried under high vacuum at room temperature for ca. 18 h to afford the title compound (3.8 g) as a fine white powder.

reactant | tert-butyl bicyclo[2.2.1]heptan-1-ylcarbamate | 31.0 mmol, 6.60 g | C12(CCC(CC1)C2)NC(OC(C)(C)C)=O | C12H21NO2
reactant | trifluoroacetic acid | 12 mL, 18 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 94 mmol, 13.0 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl isothiocyanate | 34 mmol, 4.6 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Potassium carbonate | 156 mmol, 22 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 82 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 66 mL | ClCCl | CH2Cl2
product | 1-(Bicyclo[2.2.1]heptan-1-yl)thiourea | 3.8 g | C12(CCC(CC1)C2)NC(=S)N | C8H14N2S
